US07582631B2
5-[7-(2-Chloro-pyridin-4-yl)-imidazo[1,2-c]pyrimidin-5-yl]-(1S,4S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester
To a 100 mL RBF was added 5-chloro-7-(2-chloro-pyridin-4-yl)-imidazo[1,2-c]pyrimidine (2.0 g, 7.6 mmol), 20 mL NMP, (S)—N-Boc-2,5-Diaza-bicyclo[2.2.1]heptane (1.6 g, 8.3 mmol), K2CO3 (1.05 g, 7.6 mmol) and DIEA (1.3 mL, 7.6 mmol). The mixture was stirred at rt under nitrogen for 15 h, and all starting material was converted. The reaction mixture was added to a 100 mL ice water slowly, and a white solid was precipitated out. The precipitate was filtrated and washed with 50 mL water, and further purified by flash chromatograph. The title compound was obtained. MS (ES+):427 (M+H)+.

reactant | 5-chloro-7-(2-chloro-pyridin-4-yl)-imidazo[1,2-c]pyrimidine | 7.6 mmol, 2.0 g | ClC1=NC(=CC=2N1C=CN2)C2=CC(=NC=C2)Cl | C11H6Cl2N4
reactant | (S)—N-Boc-2,5-Diaza-bicyclo[2.2.1]heptane | 8.3 mmol, 1.6 g | C(=O)(OC(C)(C)C)N1C2CN[C@H](C1)C2 | C10H18N2O2
reactant | K2CO3 | 7.6 mmol, 1.05 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DIEA | 7.6 mmol, 1.3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
product | 5-[7-(2-Chloro-pyridin-4-yl)-imidazo[1,2-c]pyrimidin-5-yl]-(1S,4S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)C2=NC(=CC=1N2C=CN1)C1=CC(=NC=C1)Cl | C21H23ClN6O2
